US08871756B2
tert-Butyl {1-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]pyrrolidin-3-yl}carbamate
The title compound was prepared in analogy to benzyl (3S,4S)-3-fluoro-4-{[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]amino}pyrrolidine-1-carboxylate in Example 92 by using 6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4(3H)-one and tert-butyl (pyrrolidin-3-yl)carbamate.

reactant | benzyl (3S,4S)-3-fluoro-4-{[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]amino}pyrrolidine-1-carboxylate | F[C@H]1CN(C[C@@H]1NC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O)C(=O)OCC2=CC=CC=C2 | C30H30FN5O3S
reactant | 6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4(3H)-one | CC=1C=C2C(NC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)=O)=O | C18H17N3O2S
reactant | tert-butyl (pyrrolidin-3-yl)carbamate | N1CC(CC1)NC(OC(C)(C)C)=O | C9H18N2O2
product | tert-Butyl {1-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]pyrrolidin-3-yl}carbamate | CC=1C=C2C(=NC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)=O)N2CC(CC2)NC(OC(C)(C)C)=O | C27H33N5O3S
